US06350735B1
9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(1-naphthylmethyl)amino]-9H-purine-2-carbonitrile
A solution of (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-{2-cyano-6-[(1-naphthylmethyl)amino]-9H-purin-9-yl}tetrahydro-3-furanyl acetate (3.5 g, 6.27 mmol) (Preparation 13) in ethanol (120 ml) was saturated with ammonia gas and stirred at room temperature for 4 days. The solvent was removed under reduced pressure and the residue was triturated with water (100 mls), filtered and dried to afford the title compound as a solid (2.4 g).

reactant | (2R,3R,4R,5R)-4-(acetyloxy)-2-[(acetyloxy)methyl]-5-{2-cyano-6-[(1-naphthylmethyl)amino]-9H-purin-9-yl}tetrahydro-3-furanyl acetate | 6.27 mmol, 3.5 g | C(C)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C)=O)N1C2=NC(=NC(=C2N=C1)NCC1=CC=CC2=CC=CC=C12)C#N)COC(C)=O | C28H26N6O7
reactant | ammonia | N | H3N
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(hydroxymethyl)tetrahydro-2-furanyl]-6-[(1-naphthylmethyl)amino]-9H-purine-2-carbonitrile | 2.4 g | O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C2=NC(=NC(=C2N=C1)NCC1=CC=CC2=CC=CC=C12)C#N | C22H20N6O4
